US06780875B2
3-[1,4′]Bipiperidinyl-1′-ylmethyl-2-phenyl-quinoline-4-carboxylic acid ((S)-1-cyclohexyl-ethyl)-amide dihydrochloride
4.0 g (8.0 mmol) of crude 3-[1,4′]bipiperidinyl-1′-ylmethyl-2-phenyl-quinoline-4-carboxylic acid dihydrochloride (compound of Description 2) were dissolved in 300 ml of a 1:1 mixture of CH2Cl2/CH3CN; 3.4 ml (24.6 mmol) of triethylamine (TEA) and 4.0 g (10.7 mmol) of O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluroniumhexafluorophosphate (HBTU) were added and the reaction mixture was cooled at 0° C. 1.22 ml (8.2 mmol) of (S) 1-cyclohexylethylamine, dissolved in 10 ml of dry CH2Cl2, were added dropwise and the reaction mixture was stirred at room temperature for 24 h. Additional 2.0 g (5.3 mmol) of HBTU and 2.0 ml (13.4 mmol) of (S)-1-cyclohexyl-ethylamine were added and the reaction mixture was heated to 40° C. for 8 h. The solvent was evaporated in vacuo to dryness and the residue was taken up with EtOAc and washed with H2O, 1 N NaOH and brine, dried over Na2SO4 and evaporated to dryness to yield a crude material which was purified by flash column cromatography on 230-400 mesh silica gel, utilising a mixture of EtOAc/MeOH 95:5 containing 0.5% NH4OH (28%). The residue was dissolved in acetone and acidified with HCl/Et2O; the precipitate so formed was recovered by suction filtration to yield 3.2 g of title compound as a pale yellow solid.

reactant | 3-[1,4′]bipiperidinyl-1′-ylmethyl-2-phenyl-quinoline-4-carboxylic acid dihydrochloride | 8.0 mmol, 4.0 g | Cl.Cl.N1(CCCCC1)C1CCN(CC1)CC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1
reactant | triethylamine | 24.6 mmol, 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluroniumhexafluorophosphate | 10.7 mmol, 4.0 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-cyclohexylethylamine | C1(CCCCC1)C(C)N | C8H17N
reactant | HBTU | 5.3 mmol, 2.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-1-cyclohexyl-ethylamine | 13.4 mmol, 2.0 ml | C1(CCCCC1)[C@H](C)N | C8H17N
solvent | CH2Cl2 CH3CN | C(Cl)Cl.CC#N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-[1,4′]Bipiperidinyl-1′-ylmethyl-2-phenyl-quinoline-4-carboxylic acid ((S)-1-cyclohexyl-ethyl)-amide dihydrochloride | 3.2 g | Cl.Cl.C1(CCCCC1)[C@H](C)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CN1CCC(CC1)N1CCCCC1 | InChI=1S/C35H46N4O.2ClH/c1-26(27-13-5-2-6-14-27)36-35(40)33-30-17-9-10-18-32(30)37-34(28-15-7-3-8-16-28)31(33)25-38-23-19-29(20-24-38)39-21-11-4-12-22-39;;/h3,7-10,15-18,26-27,29H,2,4-6,11-14,19-25H2,1H3,(H,36,40);2*1H/t26-;;/m0../s1
